US06403830B2
t-Butyl-N-(2-oxoethyl)carbamate is treated with 1,1,1-trifluoroethyl magnesium bromide to give (R/S)-1-[(1,1-dimethylethoxycarbonyl)]amino-4,4,4-trifluoro-2-butanol. The procedures and methods used in this synthesis are the same as those listed in Example 3, except that (R/S)-1-[(1,1-dimethylethoxy)carbonyl]amino-4,4,4-trifluoro-2-butanol is used instead of (S)-1-[(benzyloxycarbonyl)amino]-2-propanol, to give the title compound.

reactant | t-Butyl-N-(2-oxoethyl)carbamate | C(C)(C)(C)OC(NCC=O)=O | C7H13NO3
reactant | 1,1,1-trifluoroethyl magnesium bromide | FC(C[Mg]Br)(F)F
product | (R/S)-1-[(1,1-dimethylethoxycarbonyl)]amino-4,4,4-trifluoro-2-butanol | CC(C)(OC(=O)NCC(CC(F)(F)F)O)C | C9H16F3NO3
